US07700628B2
C. Methyl 4-isopropyl-2-methoxymethoxybenzoate
Into methylene chloride (40 mL) was dissolved 4-isopropyl-2-methoxymethoxy-benzoic acid (6.0 g, 26.8 mmol). Methanol (10 mL) was added, followed by the dropwise addition of 2 M hexane solution of trimethylsilyldiazomethane (14.7 mL). After 2 h, HOAc (0.5 mL) was added and the solvent was removed under vacuum, giving the title compound as an oil, which was used in next step without further purification.

reactant | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
reactant | 4-isopropyl-2-methoxymethoxy-benzoic acid | 26.8 mmol, 6.0 g | C(C)(C)C1=CC(=C(C(=O)O)C=C1)OCOC | C12H16O4
reactant | Methanol | 10 mL | CO | CH4O
reactant | trimethylsilyldiazomethane | 14.7 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | HOAc | 0.5 mL | CC(=O)O | C2H4O2
solvent | hexane | 2 M | CCCCCC | C6H14
product | Methyl 4-isopropyl-2-methoxymethoxybenzoate | C(C)(C)C1=CC(=C(C(=O)OC)C=C1)OCOC | C13H18O4
